US05214042
To THF (300 ml.) is added LiA1H4 (1.2 g), the mixture is refluxed for 20 min, and an additional quantity of LiAIH4 (15.8 g., 0.42 mole) is added in two portions at 5°-21° over 1 min with mechanical stirring. The mixture is cooled to 5° and a solution of ethyl 2-(N,N-diethylcarbamoyl)-2-ethylbutyrate (29 g., 0.12 mole) in THF (80 ml.) is added at 5°-11° in 5 min. The temperature (exothermic) is allowed to rise to 60 over 12 min, is maintained at 49°-53° for 7 min, is heated gradually to reflux over 10 min, and then is refluxed for 6 hours. After it stands at room temperature for 18 hours, the reaction mixture is treated with Ac2O (55 ml.) at 10°-20°, is stirred in an ice bath for 0.5 hour, is treated with H2O (150 ml.) at 10°-18°, and finally is treated with CHCl3 (250 ml.) at 10°-22° with slow stirring. The CHCl3 -layer is washed with H2O (50 ml.), is dried over MgSO4, is filtered, and is concentrated to dryness under reduced pressure. The resultant oil (30 ml.) is treated with 10% HCl (280 ml.) and is subjected to steam distillation for 1.3 hours, collecting 1 liter of distillate. The distillate is concentrated to 50 ml. by distillation under reduced pressure, is made basic with solid NaC2O3 to pH 8-9 in the cold, is extracted with ether, is dried over MgSO4 and activated charcoal, is filtered, and concentrated to dryness. The residual oil (12 g. plus 5.0 g. from previous run) is distilled at 60°-68°/1 mm to yield 11 g (35%) of 3-diethylamino-2,2-diethylpropanol.

reactant | ethyl 2-(N,N-diethylcarbamoyl)-2-ethylbutyrate | 0.12 mole, 29 g | C(C)N(C(=O)C(C(=O)OCC)(CC)CC)CC | C13H25NO3
reactant | Ac2O | 55 ml | CC(=O)OC(=O)C | C4H6O3
reactant | H2O | 150 ml | O | H2O
reactant | CHCl3 | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 3-diethylamino-2,2-diethylpropanol | 11 g, 35% | C(C)N(CC(CO)(CC)CC)CC | C11H25NO
